US07638533B2
A. 7-Bromo-1-ethyl-4,4,6-trimethyl-3,4-dihydro-1H-quinolin-2-one (Compound 1A)
A solution of 8.5 g of 7-bromo-4,4,6-trimethyl-3,4-dihydro-1H-quinolin-2-one (31.7 mmol), prepared according to WO 03/075924, in 15 mL dry DMSO was added to a prestirred solution of crushed potassium hydroxide (3.56 g, 63.4 mmol) in 15 mL of dry DMSO, followed by addition of 7.68 mL (95.2 mmol) of ethyl iodide. The reaction was stirred overnight before quenching with 100 mL of water and extracted with dichloromethane (3×150 mL), the extracts were dried with sodium sulfate, filtered, stripped and purified via flash chromatography (5% EtOAc/hexanes) to afford 8.3 g of product (88%) as a white solid. MS (electrospray): mass calculated for C14H18BrNO, 295.06; m/z found 296, [M+H]+.

reactant | 7-bromo-4,4,6-trimethyl-3,4-dihydro-1H-quinolin-2-one | 31.7 mmol, 8.5 g | BrC1=C(C=C2C(CC(NC2=C1)=O)(C)C)C | C12H14BrNO
reactant | potassium hydroxide | 63.4 mmol, 3.56 g | [OH-].[K+]
reactant | ethyl iodide | 95.2 mmol, 7.68 mL | C(C)I | C2H5I
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 7-Bromo-1-ethyl-4,4,6-trimethyl-3,4-dihydro-1H-quinolin-2-one | 8.3 g, 88% | BrC1=C(C=C2C(CC(N(C2=C1)CC)=O)(C)C)C | C14H18BrNO
